US05599829
3-(5-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one
A mixture of 2-[3-(5-chloro-2-methylphenyl)-thioureido]-acetamide (25.8 g) and ethyl iodide (32.0 g) was heated at reflux in ethanol (500 mL) for 5 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (500 mL) and water (300 mL). The organic phase was washed with water, dried over anhydrous MgSO4, then evaporated to dryness. The residue was triturated with diethyl ether and the solid was collected by filtration and dried to give the title compound (17.0 g) as a yellow solid, m.p. 137°-139° C. Anal. Calcd. for. C12H13Cl N2O S: C, 53.63; H, 4.88; N, 10.42. Found: C, 53.58; H, 4.74; N, 10.32. Mass spectrum (EI, M.+) m/z 268/270. 1H-NMR (DMSO-d6 ; 400 MHz) δ7.45-7.49 (m, 1H), 7.40-7.43 (m, 2H), 4.35 (dd, 2H), 3.07 (m, 2H), 2.1 (s, 3H), and 1.28 ppm (t, 3H).

reactant | 2-[3-(5-chloro-2-methylphenyl)-thioureido]-acetamide | 25.8 g | ClC=1C=CC(=C(C1)NC(NCC(=O)N)=S)C | C10H12ClN3OS
reactant | ethyl iodide | 32.0 g | C(C)I | C2H5I
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 3-(5-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one | 17.0 g | ClC=1C=CC(=C(C1)N1C(=NCC1=O)SCC)C | C12H13ClN2OS
